US06720320B2
4-(methoxymethyloxy)benzo(b)thiophene-2-carboxylic acid
4-(Methoxymethyloxy)benzo(b)thiophene (83 g) was dissolved in THF (700 ml) and the mixture was cooled to −78° C. At this temperature, a solution (363 ml) of n-butyllithium in hexane was added dropwise. The temperature was raised to 0° C. and then cooled again to −35° C., and carbon dioxide was bubbled. After the completion of the reaction, the reaction mixture was poured into water, and in the presence of ice, hydrochloric acid was added to adjust its pH to 1 and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and after filtration, the solvent was evaporated under reduced pressure to give the title compound (80 g).

reactant | 4-(Methoxymethyloxy)benzo(b)thiophene | 83 g | COCOC1=CC=CC=2SC=CC21 | C10H10O2S
reactant | n-butyllithium | 363 ml | C(CCC)[Li]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 700 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(methoxymethyloxy)benzo(b)thiophene-2-carboxylic acid | 80 g | COCOC1=CC=CC=2SC(=CC21)C(=O)O | C11H10O4S
